US08097628B2
To a solution of (2R)-2-{[6-(methyloxy)-3-nitro-2-pyridinyl]amino}-3-[(phenylmethyl)oxy]-1-propanol (675.8 g) in DMF (2.37 L) was added chloro(1,1-dimethylethyl)dimethylsilane (382.0 g) in portions. Then, imidazole (331.2 g) was added in portions and the mixture was stirred at room temperature for 1.5 h. The reaction mixture was evaporated and the resulting orange gum was partitioned between EtOAc (3 L) and H2O (3 L). The layers were separated and the aqueous was extracted with EtOAc (2.5+2 L). The organic layers were combined, dried over MgSO4 (˜500 g), filtered and evaporated to give an orange oil. The crude product was purified by column chromatography (10 kg silica, 9:1 heptane:EtOAc) to give N-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-3-nitro-2-pyridinamine (774.7 g, 100%) as a bright yellow solid.

reactant | (2R)-2-{[6-(methyloxy)-3-nitro-2-pyridinyl]amino}-3-[(phenylmethyl)oxy]-1-propanol | 675.8 g | COC1=CC=C(C(=N1)N[C@H](CO)COCC1=CC=CC=C1)[N+](=O)[O-] | C16H19N3O5
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 382.0 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | imidazole | 331.2 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.37 L | CN(C)C=O | C3H7NO
product | N-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-3-nitro-2-pyridinamine | 774.7 g, 100% | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])OC)(C)C | C22H33N3O5Si
